US07179823B1
A toluene solution (1.04 g) of 40% diethyl azodicarboxylate was added dropwise slowly to a mixture of ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate (699 mg), 3-furanmethanol (0.172 ml), triphenylphosphine (577 mg) and tetrahydrofuran (20 ml) at room temperature. After the solution was stirred at room temperature overnight, the reaction solvent was removed under reduced pressure. The residue was subjected to silica gel column chromatography, and ethyl 3-[1-[4-(3-furylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionate (385 mg, yield: 45%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (1:4, volume ratio).

reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate | 699 mg | OC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C1 | C22H23NO3
reactant | 3-furanmethanol | 0.172 ml | O1C=C(C=C1)CO | C5H6O2
reactant | triphenylphosphine | 577 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | toluene | 1.04 g | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-[1-[4-(3-furylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionate | 385 mg, yield: 45% | O1C=C(C=C1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C1 | C27H27NO4
